US05082841
A mixture of 3-butyryl-4-(2-methylphenylamino)-8oxiranylquinoline (1.0 g, 2.89 mmol) and 33% w/w dimethylamine in methylated spirits (10 ml) was heated at 95° for 2 hours in a pressure vessel. After cooling and evaporation of the solvent, the residue was purified by flash chromatography (silica gel, methanolic ammonia/dichloromethane) and crystallistion from aqueous ethanol to give 3-butyryl-4-(2-methylphenylamino)-8-(1-hydroxy-2-dimethylaminoethyl)quinoline (0.32 g, 28%), m.p. 95°-96°.

reactant | 3-butyryl-4-(2-methylphenylamino)-8oxiranylquinoline | 2.89 mmol, 1.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)C1OC1 | C22H22N2O2
reactant | dimethylamine | CNC | C2H7N
product | 3-butyryl-4-(2-methylphenylamino)-8-(1-hydroxy-2-dimethylaminoethyl)quinoline | 0.32 g, 28% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)C(CN(C)C)O | C24H29N3O2
